US05318966
4.6 g (0.01755 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 2.04 ml (0.01755 mol) of 3-methyl-butylamine were added thereto and the mixture was boiled for 24 hours on a water separator. After concentration the residue was hydro-genated with 1.8 g of Raney-nickel in 200 ml of ethanol at 120° and 140 bar for 10 hours. The material obtained was chromatographed over silica gel with cyclohexane/ethyl acetate 3:1. The product was dissolved in hot isopropyl ether and crystallized at room temperature. There were obtained 2.84 g (56%) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-2H-benzo[e]indol-2-one as white crystals with m.p. 81°-82° and 0.79 g (16%) of oily material from the mother liquors.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01755 mol, 4.6 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 3-methyl-butylamine | 0.01755 mol, 2.04 ml | CC(CCN)C | C5H13N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-2H-benzo[e]indol-2-one | 2.84 g, 56% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCC(C)C)=O | C18H25NO2
